US08389508B2
A solution of ethyl (4-{[2-ethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinyl)acetate (D144) (200 mg, 0.481 mmol), 3-bromo-5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazole (D43) (161 mg, 0.481 mmol), tripotassium phosphate (307 mg, 1.444 mmol) and Pd(Ph3P)4 (55.6 mg, 0.048 mmol) in N,N-Dimethylformamide (DMF) (6 mL) and Water (1.500 mL) was heated by Biotage Initiator to 120° C. for 15 min. The reaction solution was diluted with ethyl acetate, washed with water, dried over sodium sulphate, concentrated and purified by ISCO column chromatography to afford ethyl (4-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]methyl}-1-piperidinyl)acetate (D145) (80 mg). MS (ES): C29H36ClN3O3S requires 541.2. found 542.2 (M+H+).

reactant | ethyl (4-{[2-ethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}-1-piperidinyl)acetate | 0.481 mmol, 200 mg | C(C)C1=C(C=CC=C1B1OC(C(O1)(C)C)(C)C)CC1CCN(CC1)CC(=O)OCC | C24H38BNO4
reactant | 3-bromo-5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazole | 0.481 mmol, 161 mg | BrC1=NSC(=N1)C1=CC(=C(C=C1)OC(C)C)Cl | C11H10BrClN2OS
reactant | tripotassium phosphate | 1.444 mmol, 307 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | N,N-Dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | Water | 1.500 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Ph3P)4 | 0.048 mmol, 55.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl (4-{[3-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-thiadiazol-3-yl)-2-ethylphenyl]methyl}-1-piperidinyl)acetate | 80 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CC1CCN(CC1)CC(=O)OCC)CC | C29H36ClN3O3S
